US09034900B2
Step 2: 4-bromo-7-methoxy-2-methylfuro[2,3-c]pyridine
A solution of 7-methoxy-2-methylfuro[2,3-c]pyridine (3.2 g, 19.6 mmol) in ACN (30 mL) was treated with NBS (3.5 g, 19.7 mmol). After the mixture was stirred at rt for 18 h, it was concentrated in vacuo and purified by silica gel chromatography (PE/EA=30:1-5:1) to afford the title compound (3.0 g, 64%) as a yellow solid. LCMS (M+H)+=243.

reactant | 7-methoxy-2-methylfuro[2,3-c]pyridine | 19.6 mmol, 3.2 g | COC=1N=CC=C2C1OC(=C2)C | C9H9NO2
reactant | NBS | 19.7 mmol, 3.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | 4-bromo-7-methoxy-2-methylfuro[2,3-c]pyridine | 3.0 g, 64% | BrC1=C2C(=C(N=C1)OC)OC(=C2)C | C9H8BrNO2
